US04289777
1,3-Bis(3-carboxy-1,4-dihydro-4-oxo-6-quinolyloxy)-2-propanol
10 g. (30 mmol) of 1,3-bis(4-nitrophenoxy)-2-propanol is hydrogenated in methanol in the presence of 1.6 g. of Pd-carbon (10%). The catalyst is filtered off, and the filtrate is evaporated, leaving 13 g. of crude, oily 1,3-bis-(4-aminophenoxy)-2-propanol. This product is heated with 100 ml. of the diethyl ester of ethoxymethylenemalonic acid for 3 hours to 100°, then for 1 hour to 100° in a water jet pump vacuum. The excess diethyl ester of ethoxymethylenemalonic acid is distilled off under vacuum. The remainder is refluxed in 150 ml. of "Dowtherm A" for 30 minutes. After cooling, the solution is combined with isopropyl ether, and the thus-separated solid product is filtered off, thus obtaining 4 g. of crude 1,3-bis(3-carbethoxy-1,4-dihydro-4-oxo-6-quinolyloxy)-2-propanol, which is refluxed for 1 hour in 100 ml. of 2 N NaOH. After cooling, the mixture is extracted with ethyl acetate, and the aqueous phase is acidified with hydrochloric acid. The thus-produced oily compound is separated and stirred with ether until it has become solid. The solid product is filtered off, recrystallized from dimethylformamide, and dried under vacuum at 100°.

reactant | 1,3-bis(4-nitrophenoxy)-2-propanol | 30 mmol | [N+](=O)([O-])C1=CC=C(OCC(COC2=CC=C(C=C2)[N+](=O)[O-])O)C=C1 | C15H14N2O7
reactant | 1,3-bis-(4-aminophenoxy)-2-propanol | NC1=CC=C(OCC(COC2=CC=C(C=C2)N)O)C=C1 | C15H18N2O3
reactant | ethoxymethylenemalonic acid | C(C)OC=C(C(=O)O)C(=O)O | C6H8O5
reactant | 1,3-bis(3-carbethoxy-1,4-dihydro-4-oxo-6-quinolyloxy)-2-propanol | C(=O)(OCC)C1=CNC2=CC=C(C=C2C1=O)OCC(COC=1C=C2C(C(=CNC2=CC1)C(=O)OCC)=O)O | C27H26N2O9
reactant | NaOH | 2 N | [OH-].[Na+]
solvent | methanol | CO | CH4O
catalyst | Pd carbon | [Pd].[C]
solvent | water | O | H2O
product | 1,3-Bis(3-carboxy-1,4-dihydro-4-oxo-6-quinolyloxy)-2-propanol | C(=O)(O)C1=CNC2=CC=C(C=C2C1=O)OCC(COC=1C=C2C(C(=CNC2=CC1)C(=O)O)=O)O | C23H18N2O9
